US07435837B2
Treatment of (±)-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate (6.53 g, 16.06 mmol) with sodium azide (4.17 g, 64.25 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-(7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide. Treatment of (±)-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide (2.2 g, 7.9 mmol) with triphenylphosphine (2.08 g, 7.9 mmol) generally according to the procedure described for Example 21 afforded 0.675 g (34%) of (±)-1-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine as a white solid, hydrochloride salt. mp 209-211° C.; Anal. calcd. for C17H17NOHCl: C, 70.95; H, 6.3; N, 4.87. Found: C, 69.63; H, 6.46; N, 4.72.

reactant | (±)-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 16.06 mmol, 6.53 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2\C=C\C2=CC=CC=C2 | C24H22O4S
reactant | sodium azide | 64.25 mmol, 4.17 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-(7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide | C1(=CC=CC=C1)/C=C/C1=CC=CC=2CC(OC21)CN=[N+]=[N-] | C17H15N3O
reactant | (±)-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide | 7.9 mmol, 2.2 g | C1(=CC=CC=C1)/C=C/C1=CC=CC=2CC(OC21)CN=[N+]=[N-] | C17H15N3O
reactant | triphenylphosphine | 7.9 mmol, 2.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-1-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine | 0.675 g, 34% | C1(=CC=CC=C1)/C=C/C1=CC=CC=2CC(OC21)CN | C17H17NO
